US06248885B1
tert-Butylisobutyl-n-propylamine (2d)
A mixture of tert-butylisobutylamine (19.39 g, 0.15 mol), 1-iodopropane (20.40 g, 0.12 mol) and glycerol (5.53 g, 60 mmol) was refluxed for 40 h. Aqueous 8 M potassium hydroxide (30 ml, 0.24 mol) was added, the organic layer was separated and the aqueous layer was extracted with n-pentane (50 ml). The organic solutions were combined, dried over anhydrous magnesium sulfate and the product was isolated by distillation to yield 12.52 g, (61%), bp 72-73° C./18 mm Hg; 1H NMR (CDCl3) δ0.80 (t, J=6.2 Hz, 3H, CH3), 0.84 (d, J=6.6 Hz, 6H, CH3), 1.01 (s, 9H, CH3), 1.40 (sextet, J=6.2 Hz, 2H, CH2), 159 (nonet, J=6.6 Hz, 1H, CH), 2.16 (d, J=6.6 Hz, 2H, CH2), 2.34 (m, 2H, CH2).

reactant | tert-butylisobutylamine | 0.15 mol, 19.39 g | C(C)(C)(C)NCC(C)C | C8H19N
reactant | 1-iodopropane | 0.12 mol, 20.40 g | ICCC | C3H7I
reactant | glycerol | 60 mmol, 5.53 g | OCC(O)CO | C3H8O3
reactant | potassium hydroxide | 0.24 mol, 8 M, 30 ml | [OH-].[K+]
product | tert-Butylisobutyl-n-propylamine | C(C)(C)(C)N(CCC)CC(C)C | C11H25N
